US04877779
2-(But-3-ynyl)-2-phenyl-1,3-dithiane.
To a solution of 2-phenyl-1,3-dithiane (6.4 g, 32.7 mmol) in tetrahydrofuran (100 mL) at -40° C. under argon atmosphere was added 2.5M n-butyllithium (13.1 mL, 37.7 mmol). After 30 minutes the temperature was adjusted to -20° C. and maintained for 1.5 hour. The temperature of the dark brown solution was lowered to -78° C. and but-4-yne (1.5 g, 14.9 mmol) was added neat. After 1 hour, the temperature was raised to -60° C. for 1.5 hour and the solution was then stored at -20° C. overnight. The reaction mixture was poured onto water, the layers separated, and the aqueous layer was back-extracted with methylene chloride (2×50 mL). The combined organic extracts were washed with brine, dried (MgSO4) and the solvents evaporated at reduced pressure to give the product as an oil.

reactant | 2-phenyl-1,3-dithiane | 32.7 mmol, 6.4 g | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | n-butyllithium | 37.7 mmol, 2.5M, 13.1 mL | C(CCC)[Li]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(But-3-ynyl)-2-phenyl-1,3-dithiane | C(CC#C)C1(SCCCS1)C1=CC=CC=C1 | C14H16S2
